US07696352B2
5-Chloro-N-((1-(4-(3-hydroxy-2-oxopyrazin-1(2H)-yl)phenyl)-1H-1,2,3-triazol-4-yl)methyl)thiophene-2-carboxamide (87)
The mixture of 5-chloro-N-((1-(4-iodophenyl)-1H-1,2,3-triazol-4-yl)methyl)thiophene-2-carboxamide (100 mg, 0.22 mmol), 2,3-pyrazinediol (74 mg, 0.66 mmol), CuI (21 mg, 0.11 mmol), 8-hydroxyquinoline (16 mg, 0.11 mmol), potassium carbonate (152 mg, 1.1 mmol) in 2 mL DMSO in a sealed tube was stirred for 15 hrs at 130° C. The title compound was isolated directly from the reaction mixture using reverse phase prep HPLC. MS found for C18H13ClN6O3S (M+H)+ 429.1, 431.1 (Cl pattern).

reactant | 5-chloro-N-((1-(4-iodophenyl)-1H-1,2,3-triazol-4-yl)methyl)thiophene-2-carboxamide | 0.22 mmol, 100 mg | ClC1=CC=C(S1)C(=O)NCC=1N=NN(C1)C1=CC=C(C=C1)I | C14H10ClIN4OS
reactant | 2,3-pyrazinediol | 0.66 mmol, 74 mg | N1=C(C(=NC=C1)O)O | C4H4N2O2
reactant | 8-hydroxyquinoline | 0.11 mmol, 16 mg | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | potassium carbonate | 1.1 mmol, 152 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
catalyst | CuI | 0.11 mmol, 21 mg | [Cu]I
product | 5-Chloro-N-((1-(4-(3-hydroxy-2-oxopyrazin-1(2H)-yl)phenyl)-1H-1,2,3-triazol-4-yl)methyl)thiophene-2-carboxamide | ClC1=CC=C(S1)C(=O)NCC=1N=NN(C1)C1=CC=C(C=C1)N1C(C(=NC=C1)O)=O | C18H13ClN6O3S
